US07777038B2
Sodium hydride (60% in oil) (1.3 g) was added at 0° C. to a DMF solution (50 ml) of 2-oxo-1,2-dihydroquinoline-4-carboxaldehyde (5.13 g), followed by stirring for 30 minutes. 4-chlorobenzylbromide (7.0 g) was added, and the resulting mixture was stirred at room temperature overnight. Water was added to the reaction mixture, extraction with ethyl acetate was performed, and the extract was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:n-hexane=1:10→1:4). The purified product was recrystallized from a chloroform-diisopropyl ether-n-hexane mixed solvent to thereby obtain 4.13 g (yield: 47%) of 1-(4-chlorobenzyl)-2-oxo-1,2-dihydroquinoline-4-carboxaldehyde as a white powder.

reactant | Sodium hydride | 1.3 g | [H-].[Na+]
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
reactant | 2-oxo-1,2-dihydroquinoline-4-carboxaldehyde | 5.13 g | O=C1NC2=CC=CC=C2C(=C1)C=O | C10H7NO2
reactant | 4-chlorobenzylbromide | 7.0 g | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 1-(4-chlorobenzyl)-2-oxo-1,2-dihydroquinoline-4-carboxaldehyde | 4.13 g, yield: 47% | ClC1=CC=C(CN2C(C=C(C3=CC=CC=C23)C=O)=O)C=C1 | C17H12ClNO2
